US05082838
7-Benzyl-9-phenyl-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione
Phosphorus trichloride (0.2 ml) was added dropwise to a solution of 7-benzyl-1-oxo-9-phenyl-2H,6H-pyrimido[6,1-b]-[1,3]thiazine-6,8(7H)-dione (0.4 g) in DMF (8 ml) under stirring at -10° C. The mixture was stirred at the same temperature for 30 minutes and the resulting solution was poured to ice-water to give crystals and the crystals were collected by filtration. The resulting crude crystals were washed and recrystalized from methylene chloride-methanol to give colorless needles (0.31 g, 81%).

reactant | Phosphorus trichloride | 0.2 ml | P(Cl)(Cl)Cl | Cl3P
reactant | 7-benzyl-1-oxo-9-phenyl-2H,6H-pyrimido[6,1-b]-[1,3]thiazine-6,8(7H)-dione | 0.4 g | C(C1=CC=CC=C1)N1C(N2C(S(CC=C2)=O)=C(C1=O)C1=CC=CC=C1)=O | C20H16N2O3S
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
product | 7-Benzyl-9-phenyl-2H,6H-pyrimido[6,1-b][1,3]thiazine-6,8(7H)-dione | 0.31 g, 81% | C(C1=CC=CC=C1)N1C(N2C(SCC=C2)=C(C1=O)C1=CC=CC=C1)=O | C20H16N2O2S
